US03993768
3.45 G. of 2-amino-4-chloro-1-nitrobenzene and 5.3 g. of sodium sulfide monohydrate in 30 ml. of dimethylformamide is heated at about 100° for 1 hour under nitrogen, cooled and 4.5 g. of 3-phenylpropyl bromide added, held at 20°-25° for 4 hours, then diluted with water. The product is filtered off and recrystallized from methanol to afford 2-amino-4-(3-phenylpropylthio)-1-nitrobenzene.

reactant | 2-amino-4-chloro-1-nitrobenzene | NC1=C(C=CC(=C1)Cl)[N+](=O)[O-] | C6H5ClN2O2
reactant | sodium sulfide monohydrate | O.[S-2].[Na+].[Na+]
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | 3-phenylpropyl bromide | C1(=CC=CC=C1)CCCBr | C9H11Br
solvent | water | O | H2O
product | 2-amino-4-(3-phenylpropylthio)-1-nitrobenzene | NC1=C(C=CC(=C1)SCCCC1=CC=CC=C1)[N+](=O)[O-] | C15H16N2O2S
